* AD9630 SPICE Macro-Model                   
* Description: Amplifier
* Generic Desc: IC BUFFER AMP 9630
* Developed by: BT / IED
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (01/1991)
* Copyright 1990, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: 
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
************************************
*** WRITTEN BY BILL TOLLEY       ***
*** ANALOG DEVICES, IED DIVISION ***
*** GREENSBORO, NORTH CAROLINA   ***
***                              ***
*** PATENT PENDING               ***
***                              ***
*** FOR APPLICATIONS ASSITANCE:  ***
*** CALL (919) 668-9511 AND ASK  ***
*** FOR MARKETING APPLICATIONS   ***
************************************
*
*
.SUBCKT AD9630 1 14 100 110 
*
*** 1=VIN,14=VOUT,100=VCC,110=VEE **
*
C1 100 7 5.0E-12
C2 5 110 5.0E-12
C3 2 0 2.4E-12
C4 3 0 2.7E-12
C5 8 0 2.4E-12
C6 6 0 2.7E-12
F1 100 7 V1 1 
F2 5 110 V2 1  
F3 1 110 V3 1
GM1 4  5    POLY(1) (2,6)   -0.027    0.020 
GM2 7 10    POLY(1) (3,8)   -0.027   -0.020   
I1 100 2 1.5E-3
I2 3 110 1.5E-3
I3 100 8 1.5E-3
I4 6 110 1.5E-3
I5 100 7 2E-3
I6 5 110 2E-3
I7 100 17 1.5E-3
I8 18 110 1.5E-3
Q1 110 1 2 100 QPA
Q2 100 1 3 110 QNA
Q3 100 14 6 110 QNA
Q4 110 14 8 100 QPA
Q5 7 7 11 110 QNA
Q6 5 5 12 100 QPB
Q7 100 7 13 110 QNB 8
Q8 110 5 15 100 QPB 8
Q9 110 16 17 100 QPA
Q10 100 16 18 110 QNA
R1 100 2 45E3
R2 3 110 161E3  
R3 110 7 53E3   
R4 5 110 17E3
R5 13 14 6
R6 14 15 6
R7 11 12 24
R8 100 8 45E3
R9 6 110 161E3
R10 100 17 45E3   
R11 18 110 45E3   
V1 100 4 0
V2 10 110 0
V3 16 110 DC 5
*
*
*
.MODEL QNA NPN  RB=35, IRB=0, RBM=8, RC=20, RE=0.56, 
+ IS=4E-16, EG=1.2, XTI=2, XTB=2.4, BF=220, IKF=15E-3, 
+ VAF=66, ISE=3E-15, NE=1.7, BR=4, IKR=1E6, VAR=3, 
+ ISC=4.8E-20, NC=1.7, TF=24E-12, TR=4.4N, CJE=4.3E-13, 
+ VJE=1.11, MJE=0.5, CJC=3.4E-13, VJC=0.642 
+ XCJC=0.18,  CJS=4.9E-13, VJS=0.5,
+ MJS=0.32, ITF=65E-3, VTF=10, XTF=15   
*
.MODEL QNB NPN  RB=6, IRB=0, RBM=1.33, RC=3.1, RE=0.09, 
+ IS=24E-16, EG=1.21, XTI=2, XTB=2.4, BF=220, 
+ IKF=90E-3, VAF=66, ISE=18E-15, NE=1.7, 
+ BR=4, IKR=1E6, VAR=3, ISC=29E-20, NC=1.7, 
+ TF=22E-12, TR=7.3N, CJE=1.8E-12, VJE=1.11, MJE=0.5, 
+ CJC=1.59E-12, VJC=0.62, MJC=0.34, XCJC=0.23, 
+ CJS=1.28E-12, VJS=0.5, MJS=0.32, 
+ ITF=200E-3, VTF=10, XTF=15   
*
.MODEL QPA PNP  RB=36, IRB=0, RBM=13, RC=14, RE=0.3, 
+ IS=2.4E-16, EG=1.21, XTI=1.5, XTB=2.1, BF=115, 
+ IKF=30E-3, VAF=30, ISE=12E-15, NE=1.6, 
+ BR=4, IKR=1E6, VAR=1.4, ISC=5E-18, NC=1.6, 
+ TF=41E-12, TR=5.3N, CJE=2.4E-13, VJE=0.89, MJE=0.49, 
+ CJC=5.37E-13, VJC=0.53, MJC=0.19, XCJC=0.17, 
+ CJS=1.11E-12, VJS=0.6, MJS=0.35, 
+ ITF=150E-3, VTF=10, XTF=5   
*
.MODEL QPB PNP  RB=29, IRB=0, RBM=10, RC=13, RE=0.24, 
+ IS=3.03E-16, EG=1.21, XTI=1.5, XTB=2.1, BF=115, 
+ IKF=38E-3, VAF=30, ISE=15E-15, NE=1.56, 
+ BR=4, IKR=1E6, VAR=1.4, ISC=6E-18, NC=1.63, 
+ TF=39E-12, TR=5.45N, CJE=3.9E-13, VJE=0.89, MJE=0.49, 
+ CJC=6.41E-13, VJC=0.53, MJC=0.19, XCJC=0.18, 
+ CJS=1E-12, VJS=0.6, MJS=0.35, 
+ ITF=150E-3, VTF=10, XTF=5   
*
.MODEL QPC PNP  RB=4.76, IRB=0, RBM=1.71, RC=2.84, RE=0.04, 
+ IS=18.15E-16, EG=1.21, XTI=1.5, XTB=2.1, BF=115, 
+ IKF=225E-3, VAF=30, ISE=92E-15, NE=1.56, 
+ BR=4, IKR=1E6, VAR=1.4, ISC=3.74E-17, NC=1.63, 
+ TF=31E-12, TR=7.6N, CJE=1.8E-12, VJE=0.89, MJE=0.49, 
+ CJC=3E-12, VJC=0.53, MJC=0.19, XCJC=0.23, 
+ CJS=4.52E-12, VJS=0.6, MJS=0.35, 
+ ITF=200E-3, VTF=10, XTF=4   
*
.ENDS AD9630




